US04822908
Methyl α-(2-butoxymethylphenyl)-β-methoxyacrylate (Compound 32)
7.4 g of n-butanol are dissolved in 50 ml of dimethylformamide, and 2.4 g of sodium hydride are added. The solution is slightly heated until everything has reacted. This solution is gradually added dropwise at -20° C. to 28.4 g of methyl α-(2-bromomethylphenyl)-β-methoxyacrylate in 150 ml of THF. Once the bromomethyl compound is no longer detectable by thin layer chromatography, 100 g of ice and 100 ml of saturated NaCl solution are added. Extraction with methylene chloride gives 23 g of an oil which is chromatographed. 10 g of a resin are obtained after elution with ethyl acetate/hexane.

reactant | n-butanol | 7.4 g | C(CCC)O | C4H10O
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | methyl α-(2-bromomethylphenyl)-β-methoxyacrylate | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | NaCl | 100 ml | [Na+].[Cl-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Methyl α-(2-butoxymethylphenyl)-β-methoxyacrylate | 23 g | C(CCC)OCC1=C(C=CC=C1)C(C(=O)OC)=COC | C16H22O4
